US05753663
To a solution of ethyl 3,4,5-trimethoxyphenylcarbamate (6.0 g) in tetrahydrofuran (150 ml) was added a 1M solution of lithium aluminum hydride in tetrahydrofuran (23.5 ml) dropwise. The mixture was stirred at room temperature for 1 hour, then refluxed for 1 hour. The product was cooled and an excess of 1M sodium hydroxide added dropwise. The precipitate was filtered off, and the filtrate partitioned between ethyl acetate and water. The organic layer was dried over magnesium sulfate, and solvent removed under reduced pressure. The residue was redissolved in ethyl acetate and washed with 2M hydrochloric acid. The aqueous layer was washed with ethyl acetate, then basified with 1M sodium hydroxide, and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, and solvent removed under reduced pressure, to give N-methyl-3,4,5-trimethoxyaniline.

reactant | ethyl 3,4,5-trimethoxyphenylcarbamate | 6.0 g | COC=1C=C(C=C(C1OC)OC)NC(OCC)=O | C12H17NO5
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1M | [OH-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 23.5 ml | O1CCCC1 | C4H8O
product | N-methyl-3,4,5-trimethoxyaniline | CNC1=CC(=C(C(=C1)OC)OC)OC | C10H15NO3
